US07723347B2
N-(2-Fluoro-4-nitrophenyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine
A solution of 8 mg (50 μmol) of 4-chloro-3-methyl-1H-pyrrolo[2,3-b]pyridine, 9 mg (60 μmol) of 2-fluoro-4-nitroaniline, 4 mg (5 mmol) of tris(dibenzylideneacetone)dipalladium and 5 mg (10 μmol) of dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine and 10 mg (70 μmol) of potassium carbonate in 1.00 ml of degassed tert-butanol is stirred at 100° C. in a sealed pressure vessel for 3 h. After cooling to RT, the mixture is filtered through Celite, the Celite is washed with methanol and the filtrates are concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 1:1).

reactant | 4-chloro-3-methyl-1H-pyrrolo[2,3-b]pyridine | 50 μmol, 8 mg | ClC1=C2C(=NC=C1)NC=C2C | C8H7ClN2
reactant | 2-fluoro-4-nitroaniline | 60 μmol, 9 mg | FC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 10 μmol, 5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 70 μmol, 10 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol | 1.00 ml | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 5 mmol, 4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-Fluoro-4-nitrophenyl)-3-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)NC=C2C | C14H11FN4O2
